US09035101B2
Step B: Preparation of methyl 4-[5-[3,5-bis(trifluoromethyl)phenyl]-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenecarboxylate
Sodium hydroxide (50%, 1.53 g, 38.2 mmol) was added to hydroxylamine sulfate (1.57 g, 9.57 mmol) in water (18 mL). A portion of the solution (˜51%, ˜9.8 mmol of hydroxylamine) was added dropwise to methyl 4-[3-[3,5-bis(trifluoromethyl)phenyl]-4,4,4-trifluoro-1-oxo-2-buten-1-yl]-1-naphthalenecarboxylate (i.e. the product of Step A) (5.00 g, 9.61 mmol) in tetrahydrofuran (45 mL). After ˜45 min the mixture was poured into hydrochloric acid (1 N, 100 mL) and was extracted with ether (3×80 mL).

reactant | Sodium hydroxide | 38.2 mmol, 1.53 g | [OH-].[Na+]
reactant | hydroxylamine sulfate | 9.57 mmol, 1.57 g | S(=O)(=O)(O)O.NO
reactant | hydroxylamine | ˜9.8 mmol | NO | H3NO
reactant | methyl 4-[3-[3,5-bis(trifluoromethyl)phenyl]-4,4,4-trifluoro-1-oxo-2-buten-1-yl]-1-naphthalenecarboxylate | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=CC(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC)C(F)(F)F)(F)F | C24H13F9O3
reactant | hydrochloric acid | 1 N, 100 mL | Cl | ClH
solvent | water | 18 mL | O | H2O
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
product | methyl 4-[5-[3,5-bis(trifluoromethyl)phenyl]-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenecarboxylate | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)OC)C(F)(F)F)(F)F | C24H14F9NO3
